US04518597
6-[4-(3,4-Dimethyl-phenylmercapto)-butoxy]-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one and 3,4-dimethyl-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=C(C2=C(C(OC(N2)=O)(C)C)C1)C | C15H20ClNO3
reactant | 3,4-dimethyl-thiophenol | CC=1C=C(C=CC1C)S | C8H10S
product | 6-[4-(3,4-Dimethyl-phenylmercapto)-butoxy]-4,4,8-trimethyl-4H-3,1-benzoxazin-2-one | CC=1C=C(C=CC1C)SCCCCOC=1C=C(C2=C(C(OC(N2)=O)(C)C)C1)C | C23H29NO3S
